US04014887
A mixture of 15.7 parts of 2,2,6,6-tetramethylpiperidin-4-ol and 8.3 parts of ethyl bromoacetate in 50 parts of ethyl alcohol was heated at reflux for 48 hours. The cooled reaction mixture was filtered to remove 2,2,6,6-tetramethylpiperidin-4-ol hydrobromide and the solvent removed by distillation in vacuo. The residue was triturated with 40°-60°C petroleum ether to remove the unreacted 2,2,6,6-tetramethylpiperidin-4-ol. The filtrate was then distilled under reduced pressure to yield pure 1-ethoxy-carbonylmethyl-2,2,6,6-tetramethylpiperidin-4-ol as a colourless liquid (of boiling point 116°C at 0.2 mm) which slowly solidified on standing (melting point 42°-42.5°C). This material gave the following elemental analysis by weight:

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl alcohol | C(C)O | C2H6O
product | 1-ethoxy-carbonylmethyl-2,2,6,6-tetramethylpiperidin-4-ol | C(C)ON1C(C(C(CC1(C)C)O)C=C=O)(C)C | C13H23NO3
